US07576094B2
Step 2: 8-Chloro-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol
To a solution of 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (350 mg) in ethyl ether (6 mL) was added sulfonyl chloride (0.154 mL, 260 mg) dropwise at room temperature under nitrogen. After 2 hours, ethyl acetate was added, washed with an aqueous sodium bicarbonate solution, water and brine, and dried. Evaporation and chromatography (silica gel hexane-ethyl acetate 0% to 4%, hexane-dichloromethane 5% to 20%) yielded the desired compound. Crystallization with hexane gave colorless crystals of 8-chloro-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (60 mg). 1H-NMR (300 MHz, CDCl3) δ=4.29 (s, 1H), 2.67 (t, J=6.6 Hz, 2H), 2.35-1.80 (m, 13H), 1.75-1.60 (m, 1H) ppm. 13C-NMR (75 MHz, CDCl3) δ=145.2, 143.6, 120.9, 120.1, 119.9, 119.7, 77.3, 33.8, 29.2, 20.8, 13.2, 12.5, 11.5 ppm. MS: (m/z)=253 (100, M+H+), 275 (23, M+Na+).

reactant | 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 350 mg | CC1=C2CCC3(CCC3)OC2=CC(=C1O)C | C14H18O2
reactant | sulfonyl chloride | 0.154 mL, 260 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | 6 mL | C(C)OCC | C4H10O
product | 8-Chloro-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | ClC=1C(=C(C(=C2CCC3(CCC3)OC12)C)O)C | C14H17ClO2
